US04420424
(C) Z-Val-Tyr(But)-piperidide
8.52 g (25 mmoles) of H-Tyr(But)-piperidide.HCl and 6.27 g (25 mmoles) of Z-Val-OH are subjected to a condensation reaction analogously to Example 35 C. The substance crystallizes from ether. Yield 7.97 g (70%), melting point 142° C., [α]D23 =-32.8° (c=1, methanol).

reactant | H-Tyr(But)-piperidide.HCl | 25 mmoles, 8.52 g | N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)N1CCCCC1.Cl
reactant | Z-Val-OH | 25 mmoles, 6.27 g | N([C@@H](C(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C13H17NO4
product | Z-Val-Tyr(But)-piperidide | N([C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)N1CCCCC1)C(=O)OCC1=CC=CC=C1 | C31H43N3O5
